US07795267B2
Ethyl [4-[(tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]piperidin-1-yl]acetate
To a solution of hexahydro-1,1-diphenyl-7-[(4-piperidinyl)carbonyl]-3H-oxazolo[3,4-a]pyrazin-3-one hydrochloride (0.20 g, 0.45 mmol) and potassium carbonate (0.16 g, 1.2 mmol) in tetrahydrofuran (5 mL) was added ethyl bromoacetate (0.055 mL, 0.50 mmol) at 0° C., and the mixture was stirred at 0° C. for 2 hours and at room temperature for 20 hours. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated and dried to a solid. The residue was purified with silica gel column chromatography (ethyl acetate to ethyl acetate:methanol=9:1) to obtain the title compound (0.20 g, yield 90%).

reactant | hexahydro-1,1-diphenyl-7-[(4-piperidinyl)carbonyl]-3H-oxazolo[3,4-a]pyrazin-3-one hydrochloride | 0.45 mmol, 0.20 g | Cl.C1(=CC=CC=C1)C1(OC(N2C1CN(CC2)C(=O)C2CCNCC2)=O)C2=CC=CC=C2
reactant | potassium carbonate | 1.2 mmol, 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.50 mmol, 0.055 mL | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Ethyl [4-[(tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]piperidin-1-yl]acetate | 0.20 g, yield 90% | O=C1OC(C2N1CCN(C2)C(=O)C2CCN(CC2)CC(=O)OCC)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H33N3O5
